US07858621B2
Step 2: N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt (94 mg, 0.327 mmol) was reacted with 3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (78 mg, 0.272 mmol) to give the title compound (110 mg, 80%).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt | 0.327 mmol, 94 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C
reactant | 3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.272 mmol, 78 mg | N1(CCCC1)C1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C13H13F3N2O2
product | N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide | 110 mg, 80% | C(#C)C=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)N2CCCC2)=O)C=C(C1NS(=O)(=O)C)F | C23H22F4N4O3S
